US09107916B2
A. (1-methyl-1H-indazol-6-yl)methanol
A solution of methyl 1-methyl-1H-indazole-6-carboxylate (230 mg, 1.21 mmol, PREPARATION 4) in anhydrous THF (4 mL) was cooled to 0° C., LiAlH4 (92 mg, 2.42 mmol) was added in portions below 0° C., and the mixture was then stirred at 0° C. for 1.5 h, added water: 10% NaOH:water=0.2 mL:0.2 mL:0.6 mL carefully, filtered, and the filtrate was concentrated and purified by silica gel flash column to give 192 mg of crude product which was used directly for next step (98%). [M+H] Calc'd for C9H10N2O, 163. Found, 163.

reactant | methyl 1-methyl-1H-indazole-6-carboxylate | 1.21 mmol, 230 mg | CN1N=CC2=CC=C(C=C12)C(=O)OC | C10H10N2O2
reactant | LiAlH4 | 2.42 mmol, 92 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | O | H2O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | (1-methyl-1H-indazol-6-yl)methanol | 192 mg | CN1N=CC2=CC=C(C=C12)CO | C9H10N2O
